US06362212B1
p-Toluenesulfonylmethylisocyanide (0.23 g, 1.2 mmol), potassium carbonate (0.18 g, 1.3 mmol) and methanol (2 ml) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxy-iminophenylacetaldehyde (0.30 g, 1 mmol), and the mixture stirred under reflux for 2 hours. After completion of the reaction, ether (100 ml) was added, and the mixture was washed with brine (80 ml) twice. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) and recrystallized from ethyl acetate/n-hexane to give 2-(2,5-dimethylphenoxy-methyl)phenyl oxazol-5-yl ketone O-methyloxime (0.15 g, 44.6%) as colorless crystals.

reactant | p-Toluenesulfonylmethylisocyanide | 1.2 mmol, 0.23 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 1.3 mmol, 0.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 2 ml | CO | CH4O
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxy-iminophenylacetaldehyde | 1 mmol, 0.30 g | CC1=C(OCC(C=O)(OC)C2C(C=CC=C2)=N)C=C(C=C1)C | C18H21NO3
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(2,5-dimethylphenoxy-methyl)phenyl oxazol-5-yl ketone O-methyloxime | 0.15 g, 44.6% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1=CN=CO1 | C20H20N2O3
